US05681958
Phenylglycine-o-carboxylic Acid
To a solution of KOH (25 g, 440 mmol) and K2CO3 (25 g, 180 mmol) in H2O (400 mL) was added 2-bromobenzoic acid, (38.2 g, 190 mmol), followed by glycine (25 g, 330 mmol) and CuBr (540 mg, 3.76 mmol). This mixture was heated at reflux for 4 h. After cooling to room temperature, the mixture was filtered over a fritted funnel to remove traces of Cu and the filtrate was acidified to pH 3 with concentrated HCl. The precipitate was collected and dried to obtain 32.44 g (88%) of the title compound, mp 225.9°-226.2° C. (decomp., white foam); 1H NMR (DMSO-d6) δ 12.4 (br, 1H), 8.06 (br, 1H), 7.80 (m, 1H), 7.35 (m, 1H), 6.60 (m, 2H), 3.99 (s, 2H); 13C NMR (DMSO-d6) δ 171.8, 169.7, 150.0, 134.4, 131.7, 114.7, 111.5, 110.6, 44.4; MS (EI, m/z) 195 (M+) .

reactant | KOH | 440 mmol, 25 g | [OH-].[K+]
reactant | K2CO3 | 180 mmol, 25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromobenzoic acid | 190 mmol, 38.2 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | glycine | 330 mmol, 25 g | NCC(=O)O | C2H5NO2
solvent | H2O | 400 mL | O | H2O
product | Phenylglycine-o-carboxylic Acid | 32.44 g, 88% | C1(=CC=CC=C1)N(CC(=O)O)C(=O)O | C9H9NO4
